US05962685
Synthesis of 2-[2-(4,6-dimethoxypyrimidine-2-yloxy)phenyl]oxazole (Compound No. 3-11)
To 10 ml methanol, were added 0.52 g 2-(2-formylphenoxy)-4,6-dimethoxypyrimidine), 0.49 g p-toluenesulfonylmethylisocyanide and 0.69 g pottasium carbonate, and the mixture was subjected to reflux with stirring during 15 min. The solution reacted was added with ice, and solid substance precipitated was filtrated. The solid substance obtained was dissolved in ethyl acetate, and the resulting solution was then dried by using anhydrous magnesium sulfate. Then, the solvent used was removed by distillation under reduced pressure, affording the objective substance in an amount of 0.54 g.

reactant | methanol | 10 ml | CO | CH4O
reactant | 2-(2-formylphenoxy)-4,6-dimethoxypyrimidine | 0.52 g | C(=O)C1=C(OC2=NC(=CC(=N2)OC)OC)C=CC=C1 | C13H12N2O4
reactant | p-toluenesulfonylmethylisocyanide | 0.49 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | carbonate | 0.69 g | C([O-])([O-])=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4,6-dimethoxypyrimidine-2-yloxy)phenyl]oxazole | COC1=NC(=NC(=C1)OC)OC1=C(C=CC=C1)C=1OC=CN1 | C15H13N3O4
